US04937246
To a mixture of 2-benzofuranecarboxylic acid (0.5 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.1 g), triethylamine (1.2 g) and N,N-dimethylformamide (20 ml) is added dropwise, while stirring at room temperature, diethyl cyanophosphonate (1.2 ml), followed by stirring for one hour at room temperature. After addition of water (100 ml), ethyl acetate (100 ml) and hexane (100 ml), the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:ethyl acetate:acetone=1:1:0.5) to give an oily product, to which is added 1N hydrogen chloride - ethyl acetate solution (10 ml) to cause precipitation of powder. The powdery product is collected by filtration and recrystallized from a mixture of methanol - ethyl acetate to give 1-(2-benzofuranylcarbonyl)4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.65 g) as colorless needles, m.p. 221°-225° C. (decomp.).

reactant | 2-benzofuranecarboxylic acid | 0.5 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | diethyl cyanophosphonate | 1.2 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | hydrogen chloride - ethyl acetate | 1N, 10 ml | C(C)(=O)OCC.Cl
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 1-(2-benzofuranylcarbonyl)4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.65 g | Cl.O1C(=CC2=C1C=CC=C2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC | InChI=1S/C23H26N2O5.ClH/c1-27-19-12-16(13-20(28-2)22(19)29-3)15-24-8-10-25(11-9-24)23(26)21-14-17-6-4-5-7-18(17)30-21;/h4-7,12-14H,8-11,15H2,1-3H3;1H
